US06063778
Synthesis of 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-fluoroethoxyiminoacetamido]-3-[(E)-3-[(4-methylthiazol-5-yl)-methyldimethylammonio]-1-propen-1-yl]3-cephem-4-carboxylate
p-methoxybenzyl 7β[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-fluoroethoxyiminoacetamido]-3-[(E)-3-iodo-1-propen-1-yl]3-cephem-4-carboxylate(1.1 g) and 5-dimethylaminomethyl-4-methylthiazol (0.36 g) were reacted in the same manner as discribed in Example 13 to obtain the target product(330 mg).

reactant | p-methoxybenzyl 7β[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-fluoroethoxyiminoacetamido]-3-[(E)-3-iodo-1-propen-1-yl]3-cephem-4-carboxylate | 1.1 g | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)\C=C\CI)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OCCF | C24H24FIN6O6S2
reactant | 5-dimethylaminomethyl-4-methylthiazol | 0.36 g | CN(C)CC1=C(N=CS1)C | C7H12N2S
product | 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-fluoroethoxyiminoacetamido]-3-[(E)-3-[(4-methylthiazol-5-yl)-methyldimethylammonio]-1-propen-1-yl]3-cephem-4-carboxylate | 330 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)\C=C\C[N+](CC2=C(N=CS2)C)(C)C)C(=O)[O-])C1=O)=N/OCCF | C23H27FN8O5S3
